US07157580B2
To a solution of 2,6-dichloropyridine-4-carboxylic acid (8.28 g, 43.1 mmol, Aldrich) in dry THF (30 ml) was added N,N′-diisopropyl-O-t-butylisourea (17 ml, 3.6 M) dropwise over 1 minute. The resulting mixture was stirred at room temperature overnight. The material was then heated to 65° C. and additional N,N′-diisopropyl-O-t-butylisourea (10 ml) was added dropwise. The mixture was stirred for 1 hour and cooled to room temperature. After removing volatiles, the remainder was purified by flash silica gel column (EtOAc/hexanes 5:95 followed by 7.5:92.5) affording tert-butyl-2,6dichloro-4-pyridine carboxylate (7.83 g, 73%) as a white solid. MS (ES+): 248.

reactant | 2,6-dichloropyridine-4-carboxylic acid | 43.1 mmol, 8.28 g | ClC1=NC(=CC(=C1)C(=O)O)Cl | C6H3Cl2NO2
reactant | N,N′-diisopropyl-O-t-butylisourea | 3.6 M, 17 ml | C(C)(C)NC(OC(C)(C)C)=NC(C)C | C11H24N2O
reactant | N,N′-diisopropyl-O-t-butylisourea | 10 ml | C(C)(C)NC(OC(C)(C)C)=NC(C)C | C11H24N2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | tert-butyl-2,6dichloro-4-pyridine carboxylate | 7.83 g, 73% | C(C)(C)(C)OC(=O)C1=CC(=NC(=C1)Cl)Cl | C10H11Cl2NO2
